US04954509
1-(pyrrolidin-1-yl) methyl-2-(2-thiophencarbonyl)-5-hydroxy-1,2,3,4-tetrahydroisoquinoline
Prepared as Ex. N° 55, from 0.88 g (3.78 mmoles) of 1-(pyrrolidin-1-yl) methyl-5-hydroxy-1,2,3,4-tetrahydroisoquinoline and 0.83 g (5.66 mmoles) of 2-thiophene carbonyl chloride in 60 ml of dry chloroform, at -10° C.

reactant | 1-(pyrrolidin-1-yl) methyl-5-hydroxy-1,2,3,4-tetrahydroisoquinoline | 3.78 mmoles, 0.88 g | N1(CCCC1)CC1NCCC2=C(C=CC=C12)O | C14H20N2O
reactant | 2-thiophene carbonyl chloride | 5.66 mmoles, 0.83 g | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(pyrrolidin-1-yl) methyl-2-(2-thiophencarbonyl)-5-hydroxy-1,2,3,4-tetrahydroisoquinoline | N1(CCCC1)CC1N(CCC2=C(C=CC=C12)O)C(=O)C=1SC=CC1 | C19H22N2O2S
